US06043247
A mixture of 2-bromo-10,11-dihydro-5H-dibenzo[a,d]cycloheptan-5-one (2.0 g, 6.96 mmol), tert-butyl acrylate (1.2 g, 9.05 mmol), palladium acetate (16 mg, 0.07 mmol), tri-o-tolylphosphine (85 mg, 0.290 mmol), triethylamine (10 ml) in N,N-dimethylformamide (50 ml) was heated at 100° C. for 18 h under an atmosphere of nitrogen. The cooled reaction mixture was diluted with water (100 ml), extracted with diethyl ether (2×100 ml). The combined organic extracts were washed with saturated aqueous ammonium chloride (2×100 ml), dried (MgSO4), filtered and evaporated in vacuo. The residue (1.8 g) was purified by column chromatography on silicagel (600 ml) using a mixture of ethyl acetate and heptane (1:10) as eluent affording 0.7 g (30%) of 3-(5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yl)acrylic acid tert-butyl ester as an oil.

reactant | tert-butyl acrylate | 9.05 mmol, 1.2 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tri-o-tolylphosphine | 0.290 mmol, 85 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
catalyst | palladium acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yl)acrylic acid tert-butyl ester | 0.7 g, 30% | C(C)(C)(C)OC(C=CC1=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C=C1)=O | C22H22O3
